US04022769
To a solution of 1α-methyl-4-androstene-17β,19-diol 17-propionate in dimethylformamide at 40° C. is rapidly added one equivalent of Jones Reagent. The solution is stirred for about 5 hours at 40° C., cooled and a 1% aqueous sodium sulfite solution is added. The precipitate is collected, washed well with water and crystallized from hexane to yield 17β-hydroxy-1α-methyl-4-androsten-19-one propionate.

reactant | 1α-methyl-4-androstene-17β,19-diol 17-propionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCC[C@@H]([C@]3(CO)[C@H]1CC2)C | C23H36O3
reactant | Jones Reagent | one equivalent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 17β-hydroxy-1α-methyl-4-androsten-19-one propionate | C(CC)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCC[C@@H]([C@]3(C=O)[C@H]1CC2)C | InChI=1S/C20H30O2.C3H6O2/c1-13-4-3-5-14-6-7-15-16-8-9-18(22)19(16,2)11-10-17(15)20(13,14)12-21;1-2-3(4)5/h5,12-13,15-18,22H,3-4,6-11H2,1-2H3;2H2,1H3,(H,4,5)/t13-,15-,16-,17-,18-,19-,20-;/m0./s1
